US04788206
A solution of (Z)-5,5-bis(3-methoxyphenyl)-2,4-pentadienoic acid (1.85 g) and 4-nitrophenol (0.912 g) in dichloromethane (25 mL) was treated with 1,3-dicyclohexylcarbodiimide (1.23 g). The mixture was stirred at 0°-5° C. for 1 hour, then at room temperature for 1 hour. The usual work up furnished 2.2 g of crude (Z)-5,5-bis(3-methoxyphenyl)-2,4-pentadienoic acid 4-nitrophenyl ester contaminated with the corresponding (E)-isomer. Purification of the product by HPLC (dichloromethane-hexane; 3:1) yielded 1.2 g of the (Z)-isomer (Z)-5,5-bis(3-methoxyphenyl)-2,4-pentadienoic acid 4-nitrophenyl ester as an oil.

reactant | (Z)-5,5-bis(3-methoxyphenyl)-2,4-pentadienoic acid | 1.85 g | COC=1C=C(C=CC1)C(=C\C=C/C(=O)O)C1=CC(=CC=C1)OC | C19H18O4
reactant | 4-nitrophenol | 0.912 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 1,3-dicyclohexylcarbodiimide | 1.23 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | (Z)-5,5-bis(3-methoxyphenyl)-2,4-pentadienoic acid 4-nitrophenyl ester | 2.2 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C=C/C=C(C1=CC(=CC=C1)OC)C1=CC(=CC=C1)OC)=O | C25H21NO6
